US04469703
7.55 g (0.05 moles) of 4-nitrobenzaldehyde and 4.55 g (0.05 moles) of nitroethanol are suspended in a mixture of 30 ml of methanol and 0.2 ml of triethylamine. The mixture is stirred at 0° C. until dissolution (about 30 minutes) and then allowed to stand at 0° C. for 20 hours. The mixture is acidified (pH 2) with 0.2 ml of acetic acid and 0.2 ml of concentrated hydrochloric acid, and 20 ml of ice-cold water are added. The separated crystals are filtered off, washed with chloroform and dried. 8.5 g (70.24%) of 1-(4-nitrophenyl)-2-nitro-1,3-propanediol are obtained; m.p. 105°-107° C.

reactant | 4-nitrobenzaldehyde | 0.05 moles, 7.55 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | nitroethanol | 0.05 moles, 4.55 g | [N+](=O)([O-])C(C)O | C2H5NO3
reactant | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | triethylamine | 0.2 ml | C(C)N(CC)CC | C6H15N
product | 1-(4-nitrophenyl)-2-nitro-1,3-propanediol | 8.5 g, 70.24% | [N+](=O)([O-])C1=CC=C(C=C1)C(C(CO)[N+](=O)[O-])O | C9H10N2O6
